US08791161B2
tert-butyl(5-(((2-amino-4-chlorophenyl)thio)methyl)-4H-1,2,4-triazol-3-yl)carbamate
A solution of tert-butyl(5-(hydroxymethyl)-4H-1,2,4-triazol-3-yl)carbamate (190 mg, 0.888 mmol), 2-amino-4-chlorobenzenethiol (213 mg, 1.332 mmol), PPh3 (466 mg, 1.776 mmol) and di-tert-butylazodicarboxylate (409 mg, 1.776 mmol) in CH2Cl2 (10 ml) was stirred at room temperature for 2 days. The solvent was then removed and the crude residues was loaded on silica gel column to get the title compound.

reactant | tert-butyl(5-(hydroxymethyl)-4H-1,2,4-triazol-3-yl)carbamate | 0.888 mmol, 190 mg | C(C)(C)(C)OC(NC1=NN=C(N1)CO)=O | C8H14N4O3
reactant | 2-amino-4-chlorobenzenethiol | 1.332 mmol, 213 mg | NC1=C(C=CC(=C1)Cl)S | C6H6ClNS
reactant | PPh3 | 1.776 mmol, 466 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | di-tert-butylazodicarboxylate | 1.776 mmol, 409 mg | CC(C)(C)OC(=O)/N=N/C(=O)OC(C)(C)C | C10H18N2O4
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl(5-(((2-amino-4-chlorophenyl)thio)methyl)-4H-1,2,4-triazol-3-yl)carbamate | C(C)(C)(C)OC(NC1=NN=C(N1)CSC1=C(C=C(C=C1)Cl)N)=O | C14H18ClN5O2S
